US06780471B2
A suspension of 4,4′-bis-(methyldimethoxysilyl)biphenyl (2.4 g, 6.62 mmol) in 5 ml of ether was stirred vigorously with 3 ml of 0.5% acetic acid solution for 32 days. The white suspension was filtered and the solid was washed three times with acetone and ether. The resulting fine white solid was dried for one day under vacuum at room temperature and gave 4,4′bis-(methyldihydroxysilyl)biphenyl in 32% yield (0.65 g, 2.10 mmol). 1H NMR (DMSO-d6, δ, ppm) 7.66 (8H, s); 6.40 (4H, s); 0.19 (6H, s). 13C NMR (DMSO-d6, δ, ppm) 144.7, 139.3, 134.9, 126.6, 0.38. 29Si NMR (DMSO-d6, δ, ppm) −21.22. Anal. Calcd.; For C14H18O4Si2: C, 54.87; H, 5.92; Si, 18.33%. Found: C, 54.82; H, 5.79; Si, 18.80%.

reactant | 4,4′-bis-(methyldimethoxysilyl)biphenyl | 6.62 mmol, 2.4 g | C[Si](C1=CC=C(C=C1)C1=CC=C(C=C1)[Si](OC)(OC)C)(OC)OC | C18H26O4Si2
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4,4′bis-(methyldihydroxysilyl)biphenyl | 32% yield | C[Si](C1=CC=C(C=C1)C1=CC=C(C=C1)[Si](O)(O)C)(O)O | C14H18O4Si2
